US04904680
(2S)-N-(α,α-Dimethylbenzyl)-2-benzoylamino-6-benzyloxycarbonylaminohexanamide (Compound No. 19)
To 80 ml of a methylene chloride solution containing 2.14 g of (2S)-N-(α,α-dimethylbenzyl)-2-amino-6-(benzyloxycarbonylamino)hexanamide (prepared as described in Preparation 9) and 0.51 g of pyridine were added dropwise, whilst ice-cooling, 30 ml of a methylene chloride solution containing 0.76 g benzoyl chloride, over a period of 10 minutes, with stirring. The mixed solution was stirred for a further 1.5 hours at room temperature, and then the solvent was distilled off. The residue was dissolved in ethyl acetate containing a small amount of water. A 10% w/v aqueous solution of citric acid was added, and then the solution was extracted with ethyl acetate. The extract was washed with a 5% w/v aqueous solution of sodium bicarbonate and then with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was subjected to silica gel column chromatography. The fraction eluted with a 1:1 by volume mixture of ethyl acetate and hexane gave 2.06 g of the title compound as an amorphous substance melting at 53°-58° C. (with decomposition)

reactant | (2S)-N-(α,α-dimethylbenzyl)-2-amino-6-(benzyloxycarbonylamino)hexanamide | 2.14 g | CC(C1=CC=CC=C1)(C)NC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)N)=O | C23H31N3O3
reactant | pyridine | 0.51 g | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.76 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | (2S)-N-(α,α-Dimethylbenzyl)-2-benzoylamino-6-benzyloxycarbonylaminohexanamide | 2.06 g | CC(C1=CC=CC=C1)(C)NC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O | C30H35N3O4
